US05055387
Intermediate 3: 2-Methoxyethyl 4-bromobenzenesulfonate
Into a 125 mL erlenmyer flask immersed in an ice/water bath at 5° C. was added 14.2 mL (0.18 Mol) of 2-methoxyethanol and 40 mL of anhydrous pyridine. To the stirred solution was added 51 grams (0.20 Mol) of bromobenzenesulfonyl chloride in portions while keeping the temperature of the reaction below 7° C. After total addition the sulfonyl chloride, the reaction was stirred for one hour and allowed to warm to 10° C. Then the product mixture was poured into 200 mL of ice water and stirred rapidly for 30 min. The mother liquors were decanted and the remaining oily product was treated again with 200 mL of water and rapidly stirred for 30 min. To this mixture was added 400 mL of diethyl ether, and after brief stirring the organic layer was separated from the aqueous layer. The aqueous layer was extracted with 200 mL of diethyl ether and the combined organic layers were dried over magnesium sulfate overnight in the refrigerator at 5° C. The magnesium sulfate was removed by gravity filtration and the ether was removed in vacuo to afford 48 grams (0.16 Mol, 88% yield) of the desired product as a thick oil. This material was noted to crystallize when stored in the refrigerator for extended periods of time.

reactant | 2-methoxyethanol | 0.18 Mol, 14.2 mL | COCCO | C3H8O2
reactant | bromobenzenesulfonyl chloride | 0.20 Mol, 51 grams | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 2-Methoxyethyl 4-bromobenzenesulfonate | 0.16 Mol, 48 grams, 88% yield | BrC1=CC=C(C=C1)S(=O)(=O)OCCOC | C9H11BrO4S
